Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@@:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],3.40268198432
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.66101496371
[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])=[C:9]1[H:10]>>[O:1]=[C:2]([C:3][H:4])[C:9]([C:7](=[C:5][H:6])[H:8])[H:10],5.87512576779
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7],-0.41854764589
[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:9]([O:8])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11],0.00259083357923
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-5.314865769280001
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.87321608858
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-5.3687102948800005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])[H:16],4.30224817764
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-6.58151390429
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4],3.701486337940002
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-5.62696193293
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4][H:5],0.260920347741
[C:1]#[C:2][C:3][O:4][C:5]([H:6])[H:7]>>[C:1].[C:2]#[C:3][O:4][C:5]([H:6])[H:7],6.03172058452
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],4.96525660338
[C:1]=[C:2]([O:3][C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]=[C:2]([O:3][C:4]=[O:5])[C:7]([H:8])([H:9])[H:10].[H:6],2.6288311446400003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],8.66938144553
[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-0.325144352551
[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.85613955896
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.5060997295700005
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]#[C:11][H:12],1.92887338294
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.7931835937799998
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.48505674537
[H:13].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-2.17558371347
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:12],4.98244282956
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5],4.15978089312
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.4561517719380001
